Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex
 
Attending: ___.
 
Chief Complaint:
Back Pain
 
Major Surgical or Invasive Procedure:
Anterior/posterior spinal L2-4 fusion
Intubation
Thoracentesis
Chest tube placement and removal
___ guided percutaneous abdominal fluid collect drainage
Central venous line placement
___ guided hemodialysis line placement
___ guided AV fistula dilation
 
History of Present Illness:
Mr. ___ is a ___ y/o man with ESRD on HD who presented initially 
on ___ with increasing low back pain since MVC in ___. He has had a complicated complicated hospital course since 
then, which I will summarize briefly here. He initially had an 
outpatient MRI which showed question of paraspinal abscess. He 
had been told to come to the ED right away, but did not do so 
until several days later. The back pain at that time was 
centered in his low back with radiation down the anterior 
bilateral thighs (R>L). He denied fevers. Spine CT showed 
findings concerning for a destructive infectious process. OSH 
MRI showed L3 burst fx and retropulsion onto cauda, as well as 
paraspinal abscess. He was admitted to medicine for further 
evaluation, with ortho spine service consulting. He was 
initially started on vanc/gent, and then changed to 
nafcillin/gent. Blood cultures grew MSSA.  
.  
Of note, he was seen in the ED in ___ with anemia, at which 
time he spiked a temp to 101 and blood cultures were obtained. 
The patient left AMA from that ED visit, and cultures ultimately 
grew MSSA. He was treated for MSSA with cefazolin at HD from 
___ to ___, but it is unclear if this course was optimal given 
patient's history of missing HD sessions.  
.  
The patient was treated with antibiotics on the medical service 
until ___, when the patient was taken to the OR for L2-L4 
anterior fusion, following which he remained intubated and on 
pressors in the SICU. On ___ he had a posterior fusion. He 
initially did well and was weaned off pressors. He was extubated 
on ___, but on ___ his respiratory status worsened and he 
became more hypoxic. He had a thoracentesis followed by a L 
chest tube placement for pneumothorax. He was reintubated that 
day. A CT scan of his torso on ___ also showed a large left 
sided abdominal fluid collection. On ___ a drain was placed by 
___, producing 800 cc bloody fluid not noted to be purulent (no 
growth to date on culture). Around that time the patient 
developed a new pressor requirement.  
.  
On ___ he was extubated. On ___ he was taken back to the OR for 
a posterior wound dehiscence. I&D was performed, and a VAC 
device was applied. He has now been off pressors since the 
morning of ___. He was extubated again on ___ and passed a 
speech and swallow evaluation on ___. His chest tube was taken 
out today, as was the intra-abdominal drain.  
.  
Currently, he states that his pain is well controlled with 
medications, but he does feel anxious. He denies other 
complaints.  
 
Past Medical History:
1. Esrd of unknown etiology: s/p HD fistula LUE
2. HTN
3. CAD with positive stress test ___. restless leg syndrome
5. Psoriasis 
6. Anemia ___ esrd
 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
T: 97.7 BP: 110/74 HR: 100 RR: 14 O2 99% on 2L nc  
Gen: Cachectic male in NAD  
HEENT: PERRL, anicteric. MMM. OP clear.  
NECK: No lymphadenopathy, no JVD.  
CV: RRR, no m/r/g.  
LUNGS: CTAB.  
ABD: +BS, soft, NT/ND.  
EXT: Thin extremities, ___ pitting edema b/l.  
NEURO: A&Ox3. Appropriate.  

 
Pertinent Results:
___ 04:30PM BLOOD WBC-13.6* RBC-4.03*# Hgb-12.7*# Hct-43.6# 
MCV-108*# MCH-31.6 MCHC-29.2* RDW-16.9* Plt ___
___ 11:47PM BLOOD WBC-34.4*# RBC-2.47*# Hgb-7.8*# Hct-23.8* 
MCV-96# MCH-31.6 MCHC-32.8 RDW-18.7* Plt ___
___ 01:43AM BLOOD WBC-10.6 RBC-2.50* Hgb-7.6* Hct-21.0* 
MCV-84 MCH-30.4 MCHC-36.1* RDW-18.7* Plt ___
___ 01:18AM BLOOD WBC-10.8 RBC-3.09* Hgb-9.4* Hct-26.9* 
MCV-87 MCH-30.3 MCHC-34.7 RDW-19.0* Plt ___
___ 01:43AM BLOOD WBC-10.0 RBC-2.73* Hgb-7.9* Hct-24.8* 
MCV-91 MCH-28.7 MCHC-31.7 RDW-17.8* Plt ___
___ 06:15AM BLOOD WBC-8.5 RBC-2.89* Hgb-8.7* Hct-26.6* 
MCV-92 MCH-30.2 MCHC-32.9 RDW-20.1* Plt ___
___ 04:30PM BLOOD Plt ___
___ 04:45PM BLOOD ___ PTT-43.3* ___
___ 06:08AM BLOOD ___ PTT-38.6* ___
___ 08:11PM BLOOD ___ PTT-36.8* ___
___ 07:22AM BLOOD ___ PTT-44.6* ___
___ 09:16PM BLOOD Plt ___
___ 01:43AM BLOOD ___ PTT-35.1* ___
___ 05:55AM BLOOD ___ PTT-37.9* ___
___ 11:22PM BLOOD ___ 10:36AM BLOOD Ret Aut-2.1
___ 04:30PM BLOOD ESR-2
___ 06:30AM BLOOD Glucose-91 UreaN-23* Creat-2.1* Na-139 
K-4.0 Cl-99 HCO3-33* AnGap-11
___ 11:30AM BLOOD Glucose-91 UreaN-24* Creat-5.6* Na-143 
K-3.9 Cl-96 HCO3-18* AnGap-33*
___ 04:35AM BLOOD ALT-13 AST-19 LD(LDH)-375* AlkPhos-142* 
Amylase-43 TotBili-0.8
___ 06:17AM BLOOD ALT-25 AST-38 CK(CPK)-44 AlkPhos-373* 
TotBili-0.7
___ 04:45PM BLOOD ALT-52* AST-112* LD(LDH)-302* 
AlkPhos-344* Amylase-31 TotBili-0.3
___ 04:35AM BLOOD Lipase-25
___ 06:17AM BLOOD GGT-198*
___ 04:45PM BLOOD Lipase-15
___ 06:17AM BLOOD CK-MB-6 cTropnT-0.21*
___ 11:47PM BLOOD cTropnT-0.09*
___ 10:02AM BLOOD CK-MB-3 cTropnT-0.10*
___ 06:15AM BLOOD Calcium-7.8* Phos-3.9 Mg-1.9
___ 03:22AM BLOOD Calcium-8.0* Phos-4.4 Mg-2.5
___ 03:10AM BLOOD Albumin-1.8* Calcium-8.8 Phos-2.8 Mg-2.1
___ 04:35AM BLOOD Albumin-1.6* Calcium-7.5* Phos-3.8 Mg-2.1
___ 08:15AM BLOOD calTIBC-81* Ferritn-888* TRF-62*
___ 04:19AM BLOOD TSH-6.4*
___ 04:35AM BLOOD Cortsol-12.7
___ 01:53AM BLOOD Cortsol-47.0*
___ 04:45PM BLOOD CRP-87.0*
___ 05:56AM BLOOD Vanco-16.4
___ 02:48PM BLOOD Genta-0.3*
___ 06:17AM BLOOD Vanco-22.3*
___ 12:32AM BLOOD Type-ART pO2-111* pCO2-34* pH-7.46* 
calTCO2-25 Base XS-0
___ 03:54PM BLOOD pO2-58* pCO2-58* pH-7.30* calTCO2-30 Base 
XS-0
___ 11:47AM BLOOD Glucose-41* Lactate-0.6 Na-134* K-3.9 
Cl-102
___ 04:38PM BLOOD Glucose-96 Lactate-1.4 Na-131* K-3.2* 
Cl-102
___ 11:47AM BLOOD freeCa-1.07*
___ 03:17PM BLOOD freeCa-1.12
___ 08:59AM BLOOD freeCa-0.94*
___ 03:54PM BLOOD freeCa-0.97*
___ 04:38PM BLOOD freeCa-0.88*
___ 04:38PM BLOOD freeCa-0.88*

VITAMIN B1, BLOOD             115                 87-280 NMOL/L

CT Spine ___:
CT lumbar spine without contrast.

FINDINGS: There is extensive destructive process, centered at 
L2-3 disc space, which is obliterated, with extensive 
irregularity of end-plates and significant loss of height of 
vertebral body of L3 and marked irregularity of L2 inferior 
endplate and retropulsion of the bony fragments. The canal 
measures only 9 mm (AP) at this level. Additionally, there is 
high- attenuation material in the epidural space, adjacent to 
the largest retropulsed fragment, which may represent hemorrhage 
but is also concerning for infection. There is associated 
kyphotic angulation at L2-3 level.

Calcification of the abdominal aorta is noted. Paraspinal soft 
tissues are not well evaluated in this non-contrast 
non-dedicated study.

IMPRESSION: Extensive destructive process at L2-3 level, with 
significant retropulsion of bony fragments, narrowing the spinal 
canal and compressing the thecal sac at this level. This 
constellation of findings, including significant osseous 
destruction, disc and endplate involvement and adjacent density 
in the epidural space, are concerning for infection, perhaps 
complicated by recent trauma. However, occasionally, the chronic 
spondyloarthropathy associated with ESRD can mimic the 
diskitis/vertebral osteomyelitis complex. For this reason, 
review of the prompting OSH MR, and comparison to any prior 
studies would be most helpful.

TTE ___:
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy with normal cavity size. There is 
severe global left ventricular hypokinesis (LVEF = ___, 
without regional wall motion abnormalities (c/w a diffuse 
process, such as toxic, metabolic, sepsis, etc). Right 
ventricular cavity size and systolic function are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic regurgitation. No masses or 
vegetations are seen on the aortic valve. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. Mild (1+) mitral regurgitation is seen. The 
pulmonary artery systolic pressure could not be determined. 
There is a trivial/physiologic pericardial effusion.

CT Chest ___:
CT CHEST WITHOUT CONTRAST: There is overall evidence of volume 
overload with a moderate right pleural effusion and 
small-to-moderate left pleural effusion with associated passive 
atelectasis. There is body wall edema consistent with anasarca 
and the partially visualized upper abdomen demonstrates ascites. 
Septal thickening in this case in a predominantly bibasilar 
distribution, is consistent with hydrostatic edema. It is 
indeterminent whether thickening of the peribroncovascular 
bundles is secondary to hydrostatic edema or attributable to 
infection.

A nodular opacity with irregular margins is present at the 
periphery of the right upper lobe (3:7) in segment 1 measuring 
1.7 x 1.3 cm. A second nodular opacity in a peribronchovascular 
distribution is present in the right upper lobe measuring 9 x 8 
mm. Focal regions of peribronchiolar nodules are present within 
the lungs for example in the left upper lobe (3:10) suggesting 
bronchiolar infection. Focal bulla is stable in the left lower 
lobe. A left PICC line and left double-lumen dialysis catheter 
present with tips residing within the distal SVC.

OSSEOUS STRUCTURES: No suspicious lytic or sclerotic lesions are 
identified.

IMPRESSION:
1. Diffuse volume overload with moderate effusions, anasarca and 
ascites.

2. Mild widespread bronchiolar infectious process. Given that 
several opacities have a nodular configuration, followup CT 
chest without contrast is recommended in three months to ensure 
resolution. In a patient with paraspinal abscess, septic emboli 
should also be considered as a cause for nodules although the 
appearance and distribution of these opacities are not typical 
of this condition.

MIBI:
Resting perfusion images were obtained with Tc-99m sestamibi. 
Tracer was
injected approximately 45 minutes prior to obtaining the resting 
images. 

Following resting images and two minutes following intravenous 
dipyridamole,
approximately three times the resting dose of Tc-99m sestamibi 
was administered
intravenously. Stress images were obtained approximately 45 
minutes following
tracer injection. 

Imaging protocol: Gated SPECT. 
This study was interpreted using the 17-segment myocardial 
perfusion model. 

INTERPRETATION: 
The image quality is adequate. 
Left ventricular cavity size is marked dilated at stress and 
rest. 

Rest and stress perfusion images reveal uniform tracer uptake 
throughout the 
left ventricular myocardium. No reversible defects. 

Gated images reveal global hypokinesia. 
The calculated left ventricular ejection fraction is 16%. 

IMPRESSION: 1) Severe dilated cardiomyopathy; LVEF 16%. New from 
study of
___. 2) No reversible perfusion defects. 

L4 Disc biopsy:
Intervertebral disc L3-4:

 

Acute osteomyelitis with osteonecrosis. See note.

 

Note:  

Sections of bone show fibrosis of the marrow space with chronic 
inflammatory cells.  This finding may represent changes due to 
trauma or chronic osteomyelitis. In addition, there are small 
aggregates of neutrophils, some admixed with fibrinous exudate, 
adjacent to bone and within bony lacunae.  This finding is 
consistent with an on-going acute osteomyelitis. Slides B and C 
reviewed with Dr. ___.

 

Dr. ___ notified of diagnosis ___ at 3:30 ___.

RUQ U/S:
1. Large right pleural effusion and moderate ascites, new since 
___.

2. Normal-appearing gallbladder without evidence of acute 
cholecystitis.

3. Bright linear echogenic regions in the expected region of the 
ductal confluence of uncertain etiology. Diagnostic 
possibilities include air and stones within the central biliary 
tree, more likely than interposed loops of bowel within the 
porta hepatis. These findings may be expected if patient has had 
endoscopic sphincterotomy or similar procedure; however, reports 
in CareWeb do not reflect this. Further evaluation may be 
obtained with CT or MRI as indicated.

CT-GUIDED DRAINAGE PROCEDURE 
The patient's sister and medical proxy, ___, was contacted. 
Discussion of risks and benefits including specific risks of 
bleeding, infection, injury to abdominal organs and bowel, and 
need for additional surgery, was discussed. Informed consent was 
obtained over the telephone and witnessed. The patient was 
placed on the CT examination table in the supine position. The 
left lower abdomen was marked. The skin was prepped and draped 
in the usual sterile fashion. Local anesthesia was administered 
with 1% lidocaine. A 10 ___ all-purpose drainage catheter was 
then introduced into a large heterogeneous fluid collection 
containing both high-density foci and air consistent with clot 
and abscess. Approximately 800 cc of hemorrhagic fluid was 
aspirated. The fluid was sent for microbiology. The drain was 
secured in place. A sterile dressing was applied. The patient 
tolerated the procedure well and was returned to the intensive 
care unit for additional monitoring.

Dr. ___ was present and available throughout the entire 
procedure. Sedation was administered by the ICU nurse.

IMPRESSION: Technically successful placement of a 10 ___ 
all-purpose drainage catheter into a large intra-abdominal 
abscess. 800 cc of hemorrhagic fluid aspirated.

CXR ___:
There has been interval removal of left-sided central venous 
catheter. Left-sided chest tube and right-sided central venous 
catheter are in unchanged position. Previously seen left apical 
pneumothorax not identified on current study. Cardiac and 
mediastinal contours appear unchanged. Bilateral pleural 
effusions are again seen, not significantly changed allowing for 
positional differences. Spinal fusion hardware again noted.

IMPRESSION: Interval removal of left-sided central venous line. 
No definite pneumothorax identified.

PICC Placement:
Using sterile technique and local anesthesia, the left brachial 
vein was punctured under direct ultrasound guidance using a 
micropuncture set. Hard copies of the ultrasound images were 
obtained before and immediately after establishing intravenous 
access. A peel-away sheath was then placed over the guidewire 
and a single lumen PIC line measuring 37 cm in length was placed 
through the peel-away sheath with its tip positioned in the SVC 
under fluoroscopic guidance. Position of the catheter was 
confirmed by fluoroscopic spot film of the chest. The peel-away 
sheath and guidewire were then removed. The catheter was then 
secured to the skin, flushed, and sterile dressing applied. The 
patient tolerated the procedure well. There were no immediate 
complications.

IMPRESSION: Uncomplicated ultrasound and fluoroscopically guided 
single lumen PICC line placement via the left brachial vein 
approach. Final internal length is 37 cm with the tip positioned 
in the SVC. The line is ready to use.

AVF evaluation and dilation:
PROCEDURE AND FINDINGS: After explaining the risks and benefits 
of the procedure, written informed consent was obtained from the 
patient. The patient was placed supine on the angiographic table 
and the right upper arm was prepped and draped in standard 
sterile fashion. A preprocedure timeout was performed.

After injection of local anesthesia, access was gained into the 
proximal cephalic vein of the right upper extremity AV 
fistulogram with a 21-gauge micropuncture needle. A 0.018 
guidewire was advanced through the needle into the upper 
cephalic vein and a needle was exchanged for a 4.5 ___ 
micropuncture sheath. Venogram was performed with injection of 
contrast through the micropuncture sheath to evaluate from the 
cephalic vein to the central vein, ___ demonstrated no area of 
stenosis. Inflation of blood pressure cuff at the right upper 
arm, another venogram was performed with injection of the 
contrast through the sheath to evaluate the arterior anastomosis 
site of AV fistula. Venogram demonstrated about 2 cm tight 
stenosis at proximal cephalic vein with multiple collateral 
veins and venous dilatation of cephalic vein proximal to the 
stenotic portion. Based on the diagnostic findings, it was 
decided that the patient would benefit from and was a good 
candidate for angioplasty. The micropuncture sheath had to be 
removed because stenotic portion is too near the puncture site. 
Thus we decided to get another access into the upper cephalic 
vein. Using ultrasound guidance and palpatory technique, after 
several attempts, retrograde access was gained into the upper 
cephalic vein with a 21- gauge micropuncture needle. A 0.018 
guidewire was advanced through the needle into the proximal 
cephalic portion under fluoroscopic guidance and the needle was 
exchanged for a 4.5 ___ micropuncture sheath. The 
micropuncture sheath was exchanged for a 6 ___ ___ tip 
sheath. Another venogram was performed with a 5 ___ straight 
multisided-holed catheter, which demonstrated about 2 cm 
stenotic portion at the proximal cephalic vein. Stenotic portion 
of the proximal cephalic vein was dilated with 6 mm x 4 cm and 8 
mm x 4 cm balloons. A followup venogram demonstrated widely 
patent stenotic portion at proximal cephalic vein and multiple 
collateral veins disappeared. After balloon dilatation, venous 
bulging proximal to the stenotic portion also decreased.

Vascular sheath was removed and manual compression was held for 
15 minutes until hemostasis was achieved. A v-pad was applied at 
the puncture site of upper cephalic vein to prevent the bleeding 
at the puncture site. The patient tolerated the procedure well 
and there were no immediate complications.

Sedation was provided by administering divided doses of fentanyl 
and Versed throughout the total intraservice time of 105 minutes 
during which the patient's hemodynamic parameters were 
continuously monitored.

IMPRESSION: Fistulogram demonstrated about 2 cm tight stenosis 
at the proximal cephalic vein of right UE AV fistula with 
multiple collateral veins. Balloon dilatation was performed with 
6 and 8 mm x 4 cm balloons and with good angiographic results.

HD line placement:
PROCEDURE AND FINDINGS: Details of the procedure and possible 
complications were explained and informed consent was obtained.
A preprocedure timeout was performed. The patient was placed 
supine on the angiographic table and the indwelling catheter and 
left upper chest were prepped and draped in standard sterile 
fashion. An initial fluoroscopic image demonstrated a temporary 
catheter with tip in the ___/right atrium junction.

10 cc of 1% lidocaine with epinephrine were used to anesthetize 
the skin and subcutaneous tissues. Following a small skin 
incision, the subcutaneous tunnel was created by blunt 
dissection and the line was tunneled through the subcutaneous 
tissue. After aspirating each lumen, a 0.035 guidewire was 
advanced through the catheter to the inferior vena cava under 
fluoroscopic guidance. Catheter was then exchanged for a 
peel-away sheath. The wire and the inner dilator of the 
peel-away were then removed and the line was advanced through 
the peel-away sheath and positioned with its tip at the level of 
the SVC/right atrium junction. The peel-away sheath was removed.

The line was flushed, heplocked and secured to the skin with 0 
silk sutures. The venous access site incision was closed with 
Dermabond and ___ Vicryl sutures. A sterile dressing was 
applied. Final fluoroscopic image demonstrated tip of the 
catheter to be located in the ___/right atrium junction.

Moderate sedation was provided by administering Fentanyl and 
Versed in divided doses

The patient tolerated the procedure well. There were no 
immediate complications.

IMPRESSION: Successful conversion of temporary line to a 
tunneled 27-cm tip to cuff double lumen line for dialysis via 
the left subclavian vein with tip in the SVC/right atrium. The 
line is ready for use.

 
Brief Hospital Course:
Please see HPI for a summary of events prior to his transfer 
from the SICU to the floor. After transfer to the floor the 
events are as follows:

.
.
# Low back pain, paraspinal abscess, s/p s/p L2-L4 anterior ___ 
followed by posterior fusion ___: Now s/p anterior and 
posterior fusion by ortho spine surgery. Most recently had wound 
dehiscence and I+D done on ___. The patient was started on and 
should continue on IV nafcillin and rifampin for at least 8 
weeks after the dates of his surgery for treatment of his MSSA 
bacteremia and paraspinal abscess. A PICC line is in place for 
continued IV antibiotics. Furthermore, enterobacter was cultured 
from tissue taken from the wound dehiscence on ___ which was 
treated with ciprofloxacin and should be continued until his 
follow up appointment with the ID fellow, ___. Originally he 
had a vacuum dressing in place on his anterior fixation wound 
but that was removed on ___. An occlusive dressing should be 
maintained with daily changes. He should be in his TLSO brace 
when he is out of bed. His pain was controlled with methadone 
and percocet with good effect. He will follow up with the 
orthopedic surgeons as well. 
.
# Hypoglycemia: The patient developed episodes of hypoglycemia 
towards the endo of his SICU course, treated with a D10 drip. 
These episodes continued on transfer to the floor, worst first 
thing in the morning. Endocrine was consulted and felt that 
these episodes were likely due to poor oral intake of protein 
and complex carbohydrates C-peptide, betahydroxybutyrate and 
insulin levels sent at the time of a hypoglycemic event were 
normal, making a hyperinsulinemic cause much less likely. He was 
encouraged to increase his intake which improved his blood 
sugars. It should be ensured that the patient receives a high 
protein snack such as peanut butter and crackers just before bed 
to lessen am hypoglycemia. The patient should be encouraged to 
eat calorie dense, high protein food. 
.
# Diarrhea: The patient began having diarrhea towards the end of 
his SICU course, requiring a rectal tube. C.difficile was 
checked x3 as well as a cytotoxin B, which were all negative. 
Diarrhea was felt to be a combination of antibiotic effect, low 
albumin (1.6) and a mild intolerance to lactose. He was started 
on loperamide, lomotil and a lactose free diet with improvement 
of his diarrhea.
.
# Right arm swelling: The patient developed swelling of his 
right arm superior to his fistula. A fistulogram confirmed a 
stenosis which was dilated by intervential radiology. However, 
the nephrology team did not feel his fistula was ready for use 
immediately after and it may take a week or two to recover. A 
tunnelled left IJ HD line was place to be used in the interim.
.
# Anemia: Post-op, likely related to blood loss, plus component 
of anemia from ESRD. Epogen at HD. Monitor hct.
.
# Pleural effusions: He had bilateral effusions- could be due to 
CHF, given EF 15%. L effusion was tapped, but unfortunately TP 
and LDH were not sent so not certain if transudate vs. exudate. 
Fluid culture and cytology were negative. Respiratory status 
remained stable and he was on room air at the time of discharge. 
Unless his respiratory status worsens, these should be followed 
by his PCP. 
.
# Cardiomyopathy/Depressed EF: The patient developed an 
apparently new cardiomyopathy with an EF of ___ on this 
admission, down from 45-50% in ___. Pre-op stress MIBI showed 
no reversible perfusion defects making ischemia less likely. He 
was started on metoprolol and low dose lisinopril. His fluid 
status was managed via hemodialysis. 
.
# ESRD on HD: On ___ need continued renal follow up. 
Continued nephrocaps, phoslo and epogen with HD.
.
# FEN: Very poor nutritional status (INR has been elevated, 
albumin 1.6 on admission to the floor). Regular lactose free 
diet, with pudding and shake supplements. He should be encourage 
to eat as much as possible. If further improvements in 
nutritional intake are not met, TPN, NG, or PEG tube feedings 
may be considered.
.
# PPx: HSC. Bowel meds prn. H2-blocker
.
# Access: L PICC line
.
# CODE: full
.
 
Medications on Admission:
MEDS at home:  
allopurinol ___ mg daily (pt unsure of dosing)  
toprol XL 50 mg daily (pt unsure of dosing)  
phosrenol (per patient), dose unknown  
renal vitamin  
dilaudid 4 mg PO TID  
.  
MEDS on Transfer:  
Insulin Sliding Scale  
D10W Continuous at 20 ml/hr  
Ipratropium Bromide MDI 6 PUFF IH QID  
Artificial Tear Ointment 1 Appl BOTH EYES PRN  
Lorazepam 0.5 mg IV Q8H:PRN agitation  
Bisacodyl 10 mg PO DAILY:PRN  
Lorazepam 1 mg PO HS:PRN  
Calcium Gluconate IV Sliding Scale  
Magnesium Sulfate IV Sliding Scale  
Calcium Acetate 667 mg PO TID W/MEALS  
Methadone 5 mg PO TID  
Cepacol (Menthol) 1 LOZ PO PRN  
Metoprolol Tartrate 25 mg PO TID  
Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
Nafcillin 2 gm IV Q4H  
Ciprofloxacin 200 mg IV Q12H  
Nephrocaps 1 CAP PO DAILY  
Dextrose 50% 12.5 gm IV PRN  
Ondansetron 4 mg IV Q8H:PRN  
Docusate Sodium (Liquid) 100 mg PO BID  
OxycoDONE-Acetaminophen Elixir ___ mL PO Q4H:PRN  
Famotidine 20 mg PO BID  
Potassium Chloride IV Sliding Scale  
HYDROmorphone (Dilaudid) 0.5-2 mg IV Q2-4H:PRN pain with 
movement  
Promethazine 6.25 mg IV Q6H:PRN  
Heparin 5000 UNIT SC BID  
Psyllium 1 PKT PO TID:PRN  
Rifampin 600 mg PO Q24H Order date: ___ @ 1133  
 
Discharge Medications:
1. Outpatient Lab Work
please have the following labs drawn weekly:
cbc, diff, chem7, LFTs, ESR, CRP. 

please fax to ___, care of dr. ___

2. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
3. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) mL 
Injection BID (2 times a day).  
4. Rifampin 300 mg Capsule Sig: Two (2) Capsule PO Q24H (every 
24 hours) for 6 weeks.  
5. Methadone 5 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
6. Menthol-Cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane PRN (as needed).  
7. Psyllium     Packet Sig: One (1) Packet PO TID (3 times a 
day) as needed.  
8. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
9. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
10. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
11. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed.  
12. Famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
14. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 6 weeks.  
15. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO TID (3 
times a day).  
16. Loperamide 2 mg Capsule Sig: Two (2) Capsule PO TID (3 times 
a day) as needed.  
17. Ondansetron 4 mg IV Q8H:PRN 
18. Nafcillin in D2.4W 2 gram/100 mL Piggyback Sig: Two (2) 
grams Intravenous Q4H (every 4 hours) for 6 weeks.  
19. Heparin Flush (10 units/ml) 1 mL IV PRN line flush 
Temporary Central Access-Floor:    Flush with 10 mL Normal 
Saline followed by Heparin as above daily and PRN. 
20. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 
21. Diphenoxylate-Atropine 2.5-0.025 mg Tablet Sig: One (1) 
Tablet PO Q6H (every 6 hours) as needed.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
MSSA paraspinal abscess and bacteremia
Enterobacter wound infection
AV fistula stenosis
Malabsorptive diarrhea
Bilateral pleural effusions
End Stage Renal Disease on hemodialysis

 
Discharge Condition:
All vital signs stable, afebrile

 
Discharge Instructions:
You were admitted with an infection in your spinal cord. This 
was treated with IV antibiotics and surgery to clean out the 
infection. You will continue the IV antibiotics while you are at 
the rehab facility and you will follow up with the infectious 
disease doctor for further management of your antibiotics. 
 
Followup Instructions:
___